US06894141B2
76.97 g (722 mmol) of a chloroethylvinylether, 9.70 g (30.1 mmol) of a tetrabutylammoniumbromide, and 100.00 g (602 mmol) of ethyl 4-hydroxybenzoate, all manufactured by Tokyo Kasei Kogyo Co., Ltd. were mixed with an N-methylpyrrolidone solvent and stirred at a temperature of 120° C. for 3 hours so as to be reacted. The resulting solution was diluted with water and extracted with ethyl acetate so as to remove the solvent thereby obtaining a crude ethyl 4-(2-vinyloxyethoxy)benzoate. A solution of 43.69 g (662 mmol) of potassium hydroxide with 85% purity was added to the ester and reacted at a temperature of 100° C. for 6 hours to be hydrolyzed, followed by dilution and precipitation with a solution of 91.40 g (662 mmol) of sodium hydrogensulfate monohydrate thereby obtaining a crude crystal of 4-(vinyloxyethoxy)benzoic acid. The resulting crude crystal was dissolved in acetonitrile so as to be recrystallized thereby obtaining a needle-like crystal of 4-(vinyloxyethoxy)benzoic acid with an HPLC purity of 99.5 percent or higher. The yield was 104.0 g (83%).

reactant | chloroethylvinylether | 722 mmol, 76.97 g | ClCCOC=C | C4H7ClO
reactant | ethyl 4-hydroxybenzoate | 602 mmol, 100.00 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium hydroxide | 662 mmol, 43.69 g | [OH-].[K+]
reactant | sodium hydrogensulfate monohydrate | 662 mmol, 91.40 g | O.S(=O)(=O)(O)[O-].[Na+]
catalyst | tetrabutylammoniumbromide | 30.1 mmol, 9.70 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-(vinyloxyethoxy)benzoic acid | C(=C)OCCOC1=CC=C(C(=O)O)C=C1 | C11H12O4
